US07723333B2
2-tert-Butyl-4-[(2-{[3-chloro-5-(trifluoromethyl)pyridin-2-yl]amino}ethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
4-[(2-Aminoethyl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.088 g, 0.27 mmol), 2,3-dichloro-5-(trifluoromethyl)pyridine (0.065 g, 0.30 mmol) and TEA (0.055 g, 0.54 mmol) was dissolved in dry DMF (3 ml) and heated in a microwave reactor at 120° C. for 25 mins. The reaction mixture was extracted with EtOAc (75 ml) and the organic phases were washed with water (3×50 ml), dried over MgSO4, filtered and evaporated. The residue was purified by silica gel column chromatography using petroleum ether and EtOAc (85:15) as eluant, to give the title compound (0.052 g, 38%). 1H NMR (500 MHz, CDCl3): δ 8.3-8.25 (m, 1H), 7.67-7.62 (m, 2H), 7.49-7.43 (m, 2H), 7.43-7.35 (m, 3H), 6.47-6.41 (m, 1H), 5.47-5.41 (m, 1H), 3.52 (q, 2H), 3.09 (q, 2H), 1.7 (s, 9H); 13C NMR (125 MHz, CDCl3): δ 159.4, 155.7, 143.7, 143.6, 135.5, 133.2, 133.1, 131.5, 129.4, 128.5, 125, 124.6, 122.4, 116.8, 116.6, 115, 107.1, 61.4, 45.4, 40.9, 27.5; Mass Spectrum: M−H+ 503.

reactant | 4-[(2-Aminoethyl)amino]-2-tert-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.27 mmol, 0.088 g | NCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C15H21N3O3S
reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 0.30 mmol, 0.065 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-tert-Butyl-4-[(2-{[3-chloro-5-(trifluoromethyl)pyridin-2-yl]amino}ethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.052 g, 38% | C(C)(C)(C)N1S(C(=C(C1=O)NCCNC1=NC=C(C=C1Cl)C(F)(F)F)C1=CC=CC=C1)(=O)=O | C21H22ClF3N4O3S
